US08217069B2
3-[2-Chloro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)phenyl]-7-methyl-5-(4H-[1,2,4]oxadiazol-5-one-3-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a solution of 3-[2-chloro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-phenyl]-5-hydroxycarbamimidoyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.1 g) in N,N-dimethylformamide (2 mL) was added 1,1′-carbonyldiimidazole (62 mg) at room temperature. To the mixture was added sodium hydride (55%, 38 mg) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added water under ice-cooling, and the mixture was stirred for 30 minutes. The mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (62 mg).

reactant | 3-[2-chloro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)-phenyl]-5-hydroxycarbamimidoyl-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.1 g | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(NC=1C2=NC(=CC1C)C(NO)=N)=O | C24H23ClN6O4S
reactant | 1,1′-carbonyldiimidazole | 62 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-Chloro-5-(2,3,4,5-tetrahydro-1H-1-benzoazepin-1-ylsulfonyl)phenyl]-7-methyl-5-(4H-[1,2,4]oxadiazol-5-one-3-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 62 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCCCC2=C1C=CC=C2)N2C(NC=1C2=NC(=CC1C)C1=NOC(N1)=O)=O | C25H21ClN6O5S
